2154-11-07 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CC:[**CC Contact Info **]   .
   HPI: This is a 54 year old female with DM, OSA, Asthma who was recently
   found to have a pelvic mass now admitted to [**Hospital Unit Name 10**] s/p ex lap, TAH/BSO
   and panniculectomy. She was found to have an large pelvic mass on
   [**2154-10-1**] after she presented to the ED with one year of increasing
   pelvic discomfort. She was then seen by Dr. [**Last Name (STitle) **] in Gyn-Onc who
   arranged for ex-lap and panniculectomy.
   .
   Per anesthesia and surgery, the patient tolerated surgery well with 400
   cc blood loss, but reduced urine output requiring 4l NS. She was
   briefly hypotensive and hypertensive in the OR, requiring transient
   phenylephrine. She arrived in the [**Hospital Unit Name 10**] ventilated, still paralyzed with
   epidural anesthesia.
   .
   ROS: unable to obtain
   .
   Allergies:She reports that ACE inhibitors cause discomfort to
   her mouth ? cough.
   .
   Past Medical History:
   Diabetes Mellitus, Type II
   Hypertension
   Asthma
   OSA
   Obesity
   Migraine headaches
   Lower extremity cellulitis
   GERD
   Arthritis
   .
   Social History:
   No tobacco (smoked for a few years, but quit in her early 20s), uses
   EtOH socially. Works as an administrative assistant at [**Hospital1 7198**]. Previously lived with and cared for her mother, but her
   mother passed away in [**5-10**]
   .
   Family History:
   Mother with h/o of DM.  Father with h/o HTN and CAD, died at age
   53.  She also has a niece with MS.
   .
   Home Medications:
   albuterol prn
   fluticasone 50mcg 2 sprays [**Hospital1 **]
   fluticasone-salmeterol 250/50 IH [**Hospital1 **]
   glyburide 5mg PO daily
   HCTZ 25mg PO daily
   metformin 1000mg PO BID
   toprol xl 100mg daily
   nifedipine xl 60mg PO daily
   omeprazole 20mg PO daily
   docusate
   senna
   oxycodone 5mg q6hrs PO daily
   .
   Physical Exam:
   Vitals: T:96.4 P:79 BP:139/67  SaO2: 95% on FI02 50%
   General: intubated sedated
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: diffuse coarse, low pitched expiratory wheezing and rhonchi
   L/R, bilateral breath sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, ND, hypoactive bowel sounds, no masses or organomegaly
   noted, large lower abdominal incision with 2 JP drains
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   .
   Laboratory Data: see below
   .
   Radiologic Data:
   -CXR: ET tube 1cm above carina, low lung ventilation in left lung, no
   infiltrate, no effusions
   - CT abd/pelvis:
   Large intrapelvic mass measuring 21.8 x 17.2 x 21.7 cm, with cystic and
   solid components. Origin likely from the right ovary, and this may
   represent a cystic neoplasm such as mucinous cystadenocarcinoma.
   Alternatively, this mass may arise from the uterine fundus, in which
   case this may represent a degenerating fibroid, but a leiomyosarcoma is
   not excluded. Recommend pelvic
   ultrasound to attempt further characterization. No intrapelvic fluid or
   evidence of peritoneal deposits or intra-abdominal lesions.
   .
   Assessment and Plan: 54 year old female with DM, OSA, Asthma now s/p
   ex-lap and panniculectomy.
   # Ovarian Mass:
   - appreciate Gyn/onc reccs
   - follow up pathology
   - JP drains and wound care per surgery
   .
   # Low UOP: likely [**2-4**] third spacing, now improving with additional IVF.
   BP WNL. Has received 7L NS.
   - switch to LR maintenance and bolus PRN low UOP
   .
   # Pain control:
   - appreciate pain service reccs
   - epidural anesthesia
   - senna/colace
   - will obtain am PTT/PT given heparin sc and epidural catheter
   .
   # Mechanical ventilation: Given extensive surgery, will maintain
   mechanical ventilation until am per anesthesia and surgery. Patient is
   still also weaning off of paralytics.
   - profopol
   - maintain SaO2 >90
   - VAP bundle
   - am SBT
   .
   # Hypoxemia: Per anesthesia, pre-op eval revealed baseline saturations
   of 89%. This is a consistant with a hospitalization a year ago but
   appears to be worse that 6 weeks ago with discharge documentation
   describing 98% RA. Currently, patient is hypoxic given PaO2 of only 77
   while on 50% FiO2- A-a gradient 220. This raises the question that this
   may be acute hypoxemia or could be long standing  e.g. secondary to
   moderate pulm HTN/OSA. His CXR shows [**Month (only) 202**] lung volumes on left side in
   particular with low ET tube as well as poor visualization of left
   hemidaphragm indicating that hypoxia could be due to decrease
   ventilation of the left lung or hidden PNA.
   - retratract ET tube
   - repeat CXR
   - if hypoxia persists will consider CTA
   - mechanical ventilation tonight
   - CPAP at night after extubation
   - will need outpt pulm f/u
   - consider repeat echo as oupt
   .
   # Asthma: patient with wheezing bilaterally
   - will need to start Advair in am when extubated
   - albuterol q4hrs
   .
   # HTN:
   - hold anti-HTN for now given hypo/hyper-HTN today and low UOP
   - will likely restart Procardia in am, continute to hold HCTZ
   .
   # Diabetes:
   - hold glyburide for NPO
   - hold metformin as pt may need imaging
   - SSI
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: NPO for now
   .
   #) Access: TLC, a-line
   .
   #) Code Status: presumed Full
   .
   #) Dispo: pending further work-up and treatment
   ---------------------------------------------------------
   Overnight, became hypotensive and required multiple boluses of IVF.
   Was never re-started on Neo.
   Hypotension improved with IVF and after decrease in PEE 10--> 5, which
   dropped sats to ~90%.
   This morning improved blood pressures to SBP of 110s, oxygenating in
   low 90s
   UOP is still low
   ABG this AM: 7.41/47/80/31/3
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-6**] 10:07 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2154-11-7**] 12:27 AM
   Fentanyl - [**2154-11-7**] 04:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 67 (64 - 79) bpm
   BP: 107/51(65) {84/43(54) - 153/76(103)} mmHg
   RR: 14 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (7 - 287)mmHg
   Total In:
                                                                  7,857 mL
                                                                  5,675 mL
   PO:
   TF:
   IVF:
                                                                  7,797 mL
                                                                  5,675 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    323 mL
   Urine:
                                                                    150 mL
                                                                    158 mL
   NG:
   Stool:
   Drains:
                                                                    165 mL
   Balance:
                                                                  7,212 mL
                                                                  5,352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 562 (562 - 562) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/47/80.[**Numeric Identifier 500**]/30/3
   Ve: 6.3 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: intubated sedated
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: diffuse coarse, low pitched expiratory wheezing and rhonchi
   L/R, bilateral breath sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, ND, hypoactive bowel sounds, no masses or organomegaly
   noted, large lower abdominal incision with 2 JP drains
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   303 K/uL
   8.6 g/dL
   99 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   28.1 %
   5.2 K/uL
         [image002.jpg]
                             [**2154-11-6**]  08:41 PM
                             [**2154-11-6**]  09:05 PM
                             [**2154-11-7**]  01:28 AM
                             [**2154-11-7**]  01:38 AM
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
   WBC
   5.2
   Hct
   30.5
   27.8
   28.1
   Plt
   303
   Cr
   1.2
   1.1
   TCO2
   29
   30
   31
   Glucose
   174
   99
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.6 mg/dL, Mg++:1.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan: 54 year old female with DM, OSA, Asthma , with
   large ovarian mass now s/p ex-lap and panniculectomy.
   # Ovarian Mass:
   - appreciate Gyn/onc reccs
   - follow up pathology
   - JP drains and wound care per surgery
   .
   # Low UOP: likely [**2-4**] third spacing, now improving with additional IVF.
   BP WNL. Has received 7L NS.
   - switch to LR maintenance and bolus PRN low UOP
   .
   # Pain control:
   - appreciate pain service reccs
   - epidural anesthesia
   - senna/colace
   - will obtain am PTT/PT given heparin sc and epidural catheter
   .
   # Mechanical ventilation: Given extensive surgery, will maintain
   mechanical ventilation until am per anesthesia and surgery. Patient is
   still also weaning off of paralytics.
   - profopol
   - maintain SaO2 >90
   - VAP bundle
   - am SBT
   .
   # Hypoxemia: Per anesthesia, pre-op eval revealed baseline saturations
   of 89%. This is a consistant with a hospitalization a year ago but
   appears to be worse that 6 weeks ago with discharge documentation
   describing 98% RA. Currently, patient is hypoxic given PaO2 of only 77
   while on 50% FiO2- A-a gradient 220. This raises the question that this
   may be acute hypoxemia or could be long standing  e.g. secondary to
   moderate pulm HTN/OSA. His CXR shows [**Month (only) 202**] lung volumes on left side in
   particular with low ET tube as well as poor visualization of left
   hemidaphragm indicating that hypoxia could be due to decrease
   ventilation of the left lung or hidden PNA.
   - retratract ET tube
   - repeat CXR
   - if hypoxia persists will consider CTA
   - mechanical ventilation tonight
   - CPAP at night after extubation
   - will need outpt pulm f/u
   - consider repeat echo as oupt
   .
   # Asthma: patient with wheezing bilaterally
   - will need to start Advair in am when extubated
   - albuterol q4hrs
   .
   # HTN:
   - hold anti-HTN for now given hypo/hyper-HTN today and low UOP
   - will likely restart Procardia in am, continute to hold HCTZ
   .
   # Diabetes:
   - hold glyburide for NPO
   - hold metformin as pt may need imaging
   - SSI
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: NPO for now
   .
   #) Access: TLC, a-line
   .
   #) Code Status: presumed Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-07 10:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   RSBI= 50 --> placed on SBT with IPS=5 and PEEP= 8.  SBT curtailed due
   to significant coughing.
   Copiou secretions, although clear.
   Experienced hypotension overnight.
   Exhibited low urine output.
   Continued to receive iv fluiids with some response.  Did not require
   vasopressor.
   BP improved with discontinuation of epidural anesthesia --> receiving
   iv bolus for pain management.  Epidural catheter resumed this AM.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-6**] 10:07 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2154-11-7**] 04:52 AM
   Heparin Sodium - [**2154-11-7**] 08:33 AM
   Lansoprazole (Prevacid) - [**2154-11-7**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**5-8**] Moderate
   Pain location: abdominal incison
   Flowsheet Data as of  [**2154-11-7**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (97
   HR: 84 (64 - 84) bpm
   BP: 135/62(83) {84/43(54) - 153/76(103)} mmHg
   RR: 30 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (7 - 287)mmHg
   Total In:
                                                                  7,857 mL
                                                                  7,066 mL
   PO:
   TF:
   IVF:
                                                                  7,797 mL
                                                                  7,066 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                    402 mL
   Urine:
                                                                    150 mL
                                                                    237 mL
   NG:
   Stool:
   Drains:
                                                                    165 mL
   Balance:
                                                                  7,212 mL
                                                                  6,664 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 347 (347 - 562) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 50
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.41/47/80.[**Numeric Identifier 500**]/30/3
   Ve: 6.5 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, Tender: transverse surgical incision, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   303 K/uL
   99 mg/dL
   1.1 mg/dL
   30 mEq/L
   4.1 mEq/L
   15 mg/dL
   103 mEq/L
   139 mEq/L
   28.1 %
   5.2 K/uL
        [image002.jpg]
                             [**2154-11-6**]  08:41 PM
                             [**2154-11-6**]  09:05 PM
                             [**2154-11-7**]  01:28 AM
                             [**2154-11-7**]  01:38 AM
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
   WBC
   5.2
   Hct
   30.5
   27.8
   28.1
   Plt
   303
   Cr
   1.2
   1.1
   TCO2
   29
   30
   31
   Glucose
   174
   99
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.6 mg/dL, Mg++:1.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   54 yo woman s/p TAH-BSO, omentectomy for large R adnexal mass.
   Pathology pending.  Remains intubated post-op --> does have evidence of
   a significant A-a difference on FIO2 of 0.5.  She had been evaluated in
   the past as an inpatient by pulmonary and has known moderate PA-HTN by
   echo last year.  However, has documented normal sat from inpatient
   admission last month.
   RESPIRATORY FAILURE -- Persistent.  Underlying Asthma and pulmonary
   HTN.  Remained intubated primarly for airway mangement following
   anesthesia/paralytics.  Copious secretions, and radiographic evidence
   for LLL density (possible attalectasis vs. evolving infiltrate).  Hope
   to work towards extubation trial this AM.
   HYPOXEMIA -- attributed to LLL infiiltrate and background of sleep
   apnea, pulmonary HTN, asthma.  Stable overnight on mechanical
   ventilation.  Wean SaO2 as tolerated, maintain SaO2 >90%, pO2 >60
   mmHg.  Consider CTA if remains hypoxemic.   Consider repeat cardiac
   echo to assess right side.
   PULMONARY INFILTRATE -- LLL, likley atalectasis, but at risk for
   pneumonia.  Monitor, with low threhold for antimicrobials.
   OLIGURIA -- surgery team goal of 20 cc/hr.  Continue iv fluid repletion
   for low urine output.
   HYPOTENSION -- Attributed to hypovolemia and pharmacological effects
   (epidural catheter).  Now improved.
   FLUIDS -- hypovolemia, attributed to intraabdominal 3rd spacing related
   to surgery.  Continue to replete, monitor CVP.
   HYPOMAGNESEMIA -- replete iv.
   PAIN, INCISIONAL -- persists.  Continue to optimize pain regimen.
   ADENEXAL MASS -- s/p surgical resection.  Pathology pending.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-11-6**] 09:17 PM
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   Extubated this AM during rounds.  Remains extubated, tolerating well.
   Surgical incisional pain management currently focus of care.  Able to
   protect airway.  Good cough.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2154-11-7**] 17:34 ------

2154-11-08 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2154-11-7**] 10:42 AM
 INVASIVE VENTILATION - STOP [**2154-11-7**] 11:41 AM
 FEVER - 101.7
F - [**2154-11-7**] 11:00 PM
   -Extubated in a.m.
   -Epidural settings adjusted by anesthesia
   -Peritoneal washings negative for malignant cells
   -Spiked to 101.7 at 11 p.m.  Ordered CXR, U/A, urine culture, blood cx
   x 2, sputum cx
   -Gave NS at 100 cc/hr overnight
   -CXR shows possible RLL pneumonia per radiology --> started vanc/zosyn
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-7**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-8**] 05:00 AM
   Vancomycin - [**2154-11-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-11-7**] 08:34 AM
   Heparin Sodium - [**2154-11-7**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.5
   HR: 111 (79 - 120) bpm
   BP: 128/117(120) {88/57(68) - 174/165(168)} mmHg
   RR: 35 (16 - 35) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 36 (6 - 62)mmHg
   Total In:
                                                                  9,868 mL
                                                                    960 mL
   PO:
   TF:
   IVF:
                                                                  9,868 mL
                                                                    960 mL
   Blood products:
   Total out:
                                                                  1,456 mL
                                                                    410 mL
   Urine:
                                                                    881 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
                                                                    575 mL
                                                                    130 mL
   Balance:
                                                                  8,412 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (347 - 347) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   SpO2: 91%
   ABG: 7.34/49/74/27/0
   Ve: 6.5 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: extubated, alert
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: diffuse coarse, low pitched expiratory wheezing and rhonchi
   L/R improved from last night, bilateral breath sounds
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, ND, hypoactive bowel sounds, no masses or organomegaly
   noted, large lower abdominal incision with 2 JP drains
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted
   Labs / Radiology
   316 K/uL
   9.3 g/dL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   30.1 %
   6.8 K/uL
        [image002.jpg]
                             [**2154-11-6**]  09:05 PM
                             [**2154-11-7**]  01:28 AM
                             [**2154-11-7**]  01:38 AM
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
                             [**2154-11-7**]  11:20 AM
                             [**2154-11-7**]  03:16 PM
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
   WBC
   5.2
   2.5
   5.6
   6.4
   6.8
   Hct
   27.8
   28.1
   49.4
   29.0
   29.2
   30.1
   Plt
   [**Telephone/Fax (3) 9158**]94
   316
   Cr
   1.1
   1.0
   TCO2
   29
   30
   31
   28
   Glucose
   99
   97
   Other labs: PT / PTT / INR:14.0/31.3/1.2, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 54 year old female with DM, OSA, Asthma , with
   large ovarian mass now s/p ex-lap and panniculectomy.
   # Respiratory status: The patient is extubated. The barriers to
   extubation at this point are pain control and copious secretions, which
   may be suggestive of an acute infectious process, although there are no
   fevers or elevated WBC counts, and CXR does not show clear evidence of
   PNA.
   - Repeat CXR this AM
   - Send sputum Cx
   - Monitor secretions closely
   - Monitor coughing, gag reflex.
   - wean off profopol
   - maintain SaO2 >90
   - VAP bundle
   - Plan for extubation after a few hours of observation if pain and
   secretions are under control.
   .
   # Low UOP:  Improving with administration of IVF, but still low.
   Bladder scan and Foley flush did not releval evidence of obsturction.
   -Continue to monitor UOP and tolerate UOP > 20 cc/hr.
   -Low theshold for IV boluses
   # Pain control:  The patient re-started on epidural this AM.
   - appreciate continued pain service recs
   - continue epidural anesthesia
   - senna/colace
   - Adjust doses to maintain adequate pain control
   # Ovarian Mass / Post-Operative Issues:
   - appreciate Gyn/onc recs
   - follow up pathology
   - JP drains and wound care per surgery
   -Continue Ancef 2mg q6hrs while JP tubes are in place
   .
   # Hypoxemia: Per anesthesia, pre-op eval revealed baseline saturations
   of 85-89%. This is a consistant with a hospitalization a year ago but
   appears to be worse that 6 weeks ago with discharge documentation
   describing 98% RA. Currently, patient is hypoxic given PaO2 of only 77
   while on 50% FiO2- A-a gradient 220. This raises the question that this
   may be acute hypoxemia or could be long standing  e.g. secondary to
   moderate pulm HTN/OSA. His CXR shows [**Month (only) 202**] lung volumes on left side in
   particular with low ET tube as well as poor visualization of left
   hemidaphragm indicating that hypoxia could be due to decrease
   ventilation of the left lung or hidden PNA.
   - repeat CXR
   - if hypoxia persists will consider CTA
   - CPAP at night after extubation
   - will need outpt pulm f/u
   - consider repeat Echo as oupt
   .
   # Asthma: patient with wheezing bilaterally
   - will need to start Advair in am when extubated
   - albuterol q4hrs
   .
   # HTN:  Hold for now given hypotension overnight.
   - hold anti-HTN for now given hypo/hyper-HTN today and low UOP
   - will likely restart Procardia and HCTZ if pt. Becomes hypertensive
   .
   # Diabetes:
   - hold Glyburide and Metformin for now
   - SSI
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN: NPO for now
   .
   #) Access: TLC, a-line
   .
   #) Code Status: presumed Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: NPO
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-08 12:24:00 Physician Attending Progress Note
Chief Complaint: Post-op hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   Continues to experience surgical incision pain, although improved.
   Experienced fever, with concern for pneumonia --> now on Vanco & Zosyn
   empirically.
   Epidural catheter removed.  Now on PCA pump.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-7**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-8**] 05:00 AM
   Vancomycin - [**2154-11-8**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2154-11-7**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**5-8**] Moderate
   Pain location: abdominal incision
   Flowsheet Data as of  [**2154-11-8**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.6
C (99.6
   HR: 106 (91 - 120) bpm
   BP: 97/56(66) {79/41(56) - 109/68(111)} mmHg
   RR: 25 (16 - 35) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 14 (7 - 62)mmHg
   Total In:
                                                                  9,868 mL
                                                                  1,823 mL
   PO:
   TF:
   IVF:
                                                                  9,868 mL
                                                                  1,823 mL
   Blood products:
   Total out:
                                                                  1,456 mL
                                                                    475 mL
   Urine:
                                                                    881 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                    575 mL
                                                                    130 mL
   Balance:
                                                                  8,412 mL
                                                                  1,348 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 88%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese, Surgical incision
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   316 K/uL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   30.1 %
   6.8 K/uL
        [image002.jpg]
                             [**2154-11-6**]  09:05 PM
                             [**2154-11-7**]  01:28 AM
                             [**2154-11-7**]  01:38 AM
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
                             [**2154-11-7**]  11:20 AM
                             [**2154-11-7**]  03:16 PM
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
   WBC
   5.2
   2.5
   5.6
   6.4
   6.8
   Hct
   27.8
   28.1
   49.4
   29.0
   29.2
   30.1
   Plt
   [**Telephone/Fax (3) 9158**]94
   316
   Cr
   1.1
   1.0
   TCO2
   29
   30
   31
   28
   Glucose
   99
   97
   Other labs: PT / PTT / INR:14.0/31.3/1.2, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   54 yo woman s/p TAH-BSO, omentectomy for large R adnexal mass.
   Pathology pending.  Remains intubated post-op --> does have evidence of
   a significant A-a difference on FIO2 of 0.5.  She had been evaluated in
   the past as an inpatient by pulmonary and has known moderate PA-HTN by
   echo last year.  However, has documented normal sat from inpatient
   admission last month.
   RESPIRATORY FAILURE -- s/p extubation.  Underlying Asthma and pulmonary
   HTN.
   HYPOXEMIA -- attributed to LLL infiiltrate and background of sleep
   apnea, pulmonary HTN, asthma.  Stable overnight on mechanical
   ventilation.  Wean SaO2 as tolerated, maintain SaO2 >90%, pO2 >60
   mmHg.  Consider CTA if remains hypoxemic.   Consider repeat cardiac
   echo to assess right side.
   PULMONARY INFILTRATE -- LLL, likley atalectasis, but at risk for
   pneumonia.  [**Month (only) 11**] have new RLL pneumonia.
   OLIGURIA -- surgery team goal of 20 cc/hr.  Concern for possible
   increased intraabdominal pressure
 check bladder pressure. Continue iv
   fluid repletion for low urine output.
   HYPOTENSION -- Attributed to hypovolemia and pharmacological effects
   (epidural catheter).  Now improved.  Monitor MAP, maintain MAP> 60
   mmHg.
   FLUIDS -- hypovolemia, attributed to intraabdominal 3rd spacing related
   to surgery.  Continue to replete, monitor CVP.
   HYPOMAGNESEMIA -- replete iv.
   PAIN, INCISIONAL -- persists.  Continue to optimize pain regimen.
   ADENEXAL MASS -- s/p surgical resection.  Pathology pending.
   NUTRITIONAL SUPPORT -- remain NPO while surgical ileus persists.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-11-6**] 09:17 PM
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2154-11-09 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -The patient continues to have decreased UOP.
   -Epidural was d/c
d and the patient was started on Morphine PCA for
   pain control.
   -The patient was significantly nauseous O/N, given zofran and compazine
   for nausea, with improvement of symptoms.
   -Cipro was added to Vanc and Zosyn for coverage of VAP.
   This AM, the patient continues to complains of some nausea,
   precipitated by cough.  The patient has improved productive cough with
   white sputum.  Denies SOB.
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-7**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-8**] 04:00 PM
   Vancomycin - [**2154-11-8**] 08:01 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2154-11-8**] 11:15 PM
   Heparin Sodium (Prophylaxis) - [**2154-11-8**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-9**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 99 (98 - 110) bpm
   BP: 123/111(114) {77/48(59) - 149/144(146)} mmHg
   RR: 21 (18 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 13 (9 - 14)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  5,064 mL
                                                                  1,161 mL
   PO:
   TF:
   IVF:
                                                                  5,064 mL
                                                                  1,161 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    105 mL
   Urine:
                                                                    535 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
                                                                    365 mL
   Balance:
                                                                  4,164 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General: extubated, alert and oriented
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: diffuse coarse, low pitched expiratory wheezing and rhonchi
   L/R improved from previous exam  bilateral breath sounds, copious
   respiratory secretions
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, obese, slightly distended, absent bowel sounds, no
   masses or organomegaly noted, large lower abdominal with dressing
   clean,d ry, intact incision with 2 JP drains
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted
   Labs / Radiology
   331 K/uL
   8.5 g/dL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   11 mg/dL
   106 mEq/L
   140 mEq/L
   27.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2154-11-7**]  01:28 AM
                             [**2154-11-7**]  01:38 AM
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
                             [**2154-11-7**]  11:20 AM
                             [**2154-11-7**]  03:16 PM
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
   WBC
   5.2
   2.5
   5.6
   6.4
   6.8
   9.2
   Hct
   27.8
   28.1
   49.4
   29.0
   29.2
   30.1
   27.3
   Plt
   [**Telephone/Fax (3) 9158**]94
   316
   331
   Cr
   1.1
   1.0
   TCO2
   30
   31
   28
   Glucose
   99
   97
   Other labs: PT / PTT / INR:14.0/31.3/1.2, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9164**] is a 54 year old female with DM, OSA, Asthma , with large
   ovarian mass now s/p ex-lap and panniculectomy, admitted to [**Hospital Unit Name 10**] for
   post-operative hypoxemia, now with evidence for new RLL PNA, on Vanc/
   Zosyn day 1.
   1. Hypoxemia/ RLL PNA- patient remains extubated, with decreased cough
   and secretions.  Satting well on 4L NC. Per anesthesia, pre-op eval
   revealed baseline saturations of 85-89%. This is a consistant with a
   hospitalization a year ago but appears to be worse that 6 weeks ago
   with discharge documentation describing 98% RA. Currently, patient is
   hypoxic given PaO2 of only 77 while on 50% FiO2- A-a gradient 220. This
   raises the question that this may be acute hypoxemia or could be long
   standing  e.g. secondary to moderate pulm HTN/OSA. The patient refusing
   to use CPAP at night.
   - continue Vanc/ Zosyn /Cipro for coverage of VAP, although
   radiographic findings could also be secondary to atelectasis
   - F/u sputum Cx
   - RTC nebs q4hours
   - Re-start Advair
   - Monitor cough and secretions
   - maintain SaO2 >90
   - PCA Morphine (10mg/hr lockout) and RTC Tylenol for pain control
   - will need outpt pulm f/u
   - consider repeat Echo as oupt
   2. Abdominal Pain- Patient still having significant amts of pain,
   screams and wails every time she is turned- APS consulted -epidural
   discontinued and patient started on PCA
   - continue PCA
   - monitor pain
   - Zofran and Compazine for nausea/vomiting
   3. ARF/ Low UOP:  The patient was noted to have a Cr bump from 1.1 to
   2.0 today.  Etiology may be pre-renal vs. ATN secondary to hypotension
   post-opeeratively.  UOP continues to be low.  Bladder scan and Foley
   flush did not releval evidence of obstruction.
   -Urine lytes
   -Renal U/S with Dopplers
   -Checj Cr [**Hospital1 **]
   -Continue to monitor UOP and tolerate UOP > 20 cc/hr.
   -Low theshold for IV boluses
   4 Ovarian Mass / Post-Operative Issues:
   - appreciate Gyn/onc recs
   - follow up pathology
   - JP drains and wound care per surgery
   .
   5. Asthma: patient with wheezing bilaterally
   - re-start Advair
   - albuterol q4hrs standing
   .
   6. HTN:  continue to hold anti-hypertensives.  Will re-start if the
   patient becomes hypertensive.
   .
   7. Diabetes:
   - hold Glyburide and Metformin for now
   - SSI
   8. Anemia
 Hct trending down slowly to 27.3 today.  No evidence of
   active bleed
   -Given post-operative, transfuse for Hct goal of 30 or signs of active
   bleed.
   -1 unit pRBCs today.
   -F/u Hct [**Hospital1 **]
   ICU Care
   Nutrition: NPO with ice chips
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: IV PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-10 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2154-11-9**] 01:26 PM
   Renal
 ARTERIAL LINE - STOP [**2154-11-9**] 09:25 PM
   -Underwent renal U/S: Extremely limited exam. However, no
   hydronephrosis. Appropriate waveforms of the right main renal artery
   and veins. More distal vasculature and waveforms of the left kidney
   could not be obtained due to technical factors.
   -ICU consent signed.
   -Received 1 unit pRBCs per Gyn recs.
   -Cr bumped to 2.5 in PM, likely ATN in the setting of hypotension
   -However, Urine lytes: Na 18, Osm 342, more c/w prerenal causes
   -Alb 2.6
   -Urine output poor ~10 cc /hour, pt. given 1L NS bolus
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Cefazolin - [**2154-11-7**] 10:00 PM
   Vancomycin - [**2154-11-8**] 08:01 PM
   Ciprofloxacin - [**2154-11-9**] 04:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-10**] 01:42 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2154-11-9**] 11:37 PM
   Heparin Sodium (Prophylaxis) - [**2154-11-9**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-10**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 103 (90 - 108) bpm
   BP: 90/56(64) {87/46(62) - 131/81(91)} mmHg
   RR: 17 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 17 (10 - 22)mmHg
   Total In:
                                                                  4,143 mL
                                                                  1,170 mL
   PO:
   TF:
   IVF:
                                                                  3,296 mL
                                                                  1,164 mL
   Blood products:
                                                                    558 mL
                                                                      6 mL
   Total out:
                                                                  1,163 mL
                                                                    216 mL
   Urine:
                                                                    298 mL
                                                                     16 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    565 mL
                                                                    200 mL
   Balance:
                                                                  2,980 mL
                                                                    954 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.27/50/81.[**Numeric Identifier 8**]/22/-4
   Physical Examination
   General: extubated, alert and oriented
   Neck: supple, no JVD or carotid bruits appreciated
   Pulmonary: diffuse coarse, low pitched expiratory wheezing and rhonchi
   L/R improved from previous exam  bilateral breath sounds, copious
   respiratory secretions
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, obese, slightly distended, absent bowel sounds, no
   masses or organomegaly noted, large lower abdominal with dressing
   clean,d ry, intact incision with 2 JP drains
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted
   Labs / Radiology
   331 K/uL
   8.5 g/dL
   114 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.4 mEq/L
   22 mg/dL
   107 mEq/L
   140 mEq/L
   28.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2154-11-7**]  04:44 AM
                             [**2154-11-7**]  05:00 AM
                             [**2154-11-7**]  11:20 AM
                             [**2154-11-7**]  03:16 PM
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
   WBC
   5.2
   2.5
   5.6
   6.4
   6.8
   9.2
   Hct
   28.1
   49.4
   29.0
   29.2
   30.1
   27.3
   28.5
   Plt
   [**Telephone/Fax (3) 9158**]94
   316
   331
   Cr
   1.1
   1.0
   2.1
   2.5
   TCO2
   31
   28
   24
   Glucose
   99
   97
   105
   114
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Ms. [**Known lastname 9164**] is a 54 year old female with DM, OSA, Asthma , with large
   ovarian mass now s/p ex-lap and panniculectomy, admitted to [**Hospital Unit Name 10**] for
   post-operative hypoxemia, now with evidence for new RLL PNA, on Vanc/
   Zosyn day 1.
   1. Hypoxemia/ RLL PNA- patient remains extubated, with decreased cough
   and secretions.  Satting well on 4L NC. Per anesthesia, pre-op eval
   revealed baseline saturations of 85-89%. This is a consistant with a
   hospitalization a year ago but appears to be worse that 6 weeks ago
   with discharge documentation describing 98% RA. Currently, patient is
   hypoxic given PaO2 of only 77 while on 50% FiO2- A-a gradient 220. This
   raises the question that this may be acute hypoxemia or could be long
   standing  e.g. secondary to moderate pulm HTN/OSA. The patient refusing
   to use CPAP at night.
   - continue Vanc/ Zosyn /Cipro for coverage of VAP, although
   radiographic findings could also be secondary to atelectasis
   - F/u sputum Cx
   - RTC nebs q4hours
   - Re-start Advair
   - Monitor cough and secretions
   - maintain SaO2 >90
   - PCA Morphine (10mg/hr lockout) and RTC Tylenol for pain control
   - will need outpt pulm f/u
   - consider repeat Echo as oupt
   2. Abdominal Pain- Patient still having significant amts of pain,
   screams and wails every time she is turned- APS consulted -epidural
   discontinued and patient started on PCA
   - continue PCA
   - monitor pain
   - Zofran and Compazine for nausea/vomiting
   3. ARF/ Low UOP:  The patient was noted to have a Cr bump from 1.1 to
   2.0 today.  Etiology may be pre-renal vs. ATN secondary to hypotension
   post-opeeratively.  UOP continues to be low.  Bladder scan and Foley
   flush did not releval evidence of obstruction.
   -Urine lytes
   -Renal U/S with Dopplers
   -Checj Cr [**Hospital1 **]
   -Continue to monitor UOP and tolerate UOP > 20 cc/hr.
   -Low theshold for IV boluses
   4 Ovarian Mass / Post-Operative Issues:
   - appreciate Gyn/onc recs
   - follow up pathology
   - JP drains and wound care per surgery
   .
   5. Asthma: patient with wheezing bilaterally
   - re-start Advair
   - albuterol q4hrs standing
   .
   6. HTN:  continue to hold anti-hypertensives.  Will re-start if the
   patient becomes hypertensive.
   .
   7. Diabetes:
   - hold Glyburide and Metformin for now
   - SSI
   8. Anemia
 Hct trending down slowly to 27.3 today.  No evidence of
   active bleed
   -Given post-operative, transfuse for Hct goal of 30 or signs of active
   bleed.
   -1 unit pRBCs today.
   -F/u Hct [**Hospital1 **]
   ICU Care
   Nutrition: NPO with ice chips
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: IV PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-11 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2154-11-10**] 07:34 PM
 WOUND CULTURE - At [**2154-11-10**] 09:05 PM
   (no bm since [**Doctor First Name **]) -CT abdomen/pelvis showed:
   1. No evidence of intraperitoneal or retroperitoneal hematoma.
   2. Dilated loops of small bowel proximally, may relate to post-surgical
   ileus. However, an early small-bowel obstruction cannot be excluded.
   3. Small amount of nonspecific fluid and stranding seen within mid
   abdomen and pelvis, likely post-surgical.
   -renal says ---> ATN
   -checking a.m. vancomycin level
   -continued albuterol and started budesonide nebs
   -drain creatinine was 4.4
   -random cortisol normal
   -ordered urine cx, pan cx
   -changed morphine to dilaudid
   -worsening metabolic and respiratory acidosis
   -bolused for low BP
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 08:00 AM
   Ciprofloxacin - [**2154-11-10**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-11**] 01:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-11-10**] 07:55 PM
   Hydromorphone (Dilaudid) - [**2154-11-11**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 94 (94 - 109) bpm
   BP: 113/61(73) {85/57(65) - 129/88(93)} mmHg
   RR: 16 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 15 (14 - 19)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
   Total In:
                                                                  3,465 mL
                                                                    258 mL
   PO:
   TF:
   IVF:
                                                                  3,258 mL
                                                                    138 mL
   Blood products:
                                                                      6 mL
   Total out:
                                                                  1,083 mL
                                                                    230 mL
   Urine:
                                                                     38 mL
   NG:
   Stool:
   Drains:
                                                                  1,045 mL
                                                                    230 mL
   Balance:
                                                                  2,382 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General: obese, hirsute African American female in mild distress;
   somnolent but easily  arousable. Oriented. Converses appropriately.
   Pulmonary: Rales at left apex. Otherwise CTAB.
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, obese, distended, absent bowel sounds, lower abdominal
   incision with dressing clean, dry, intact incision; JP drains with
   serosanguinous drainage
   Extremities: Bilateral LE edema, warm and well-perfused.
   Labs / Radiology
   332 K/uL
   8.7 g/dL
   88 mg/dL
   5.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   32 mg/dL
   105 mEq/L
   138 mEq/L
   28.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
                             [**2154-11-10**]  06:15 AM
                             [**2154-11-10**]  11:34 AM
                             [**2154-11-10**]  01:20 PM
                             [**2154-11-11**]  06:01 AM
   WBC
   5.6
   6.4
   6.8
   9.2
   11.8
   9.0
   9.3
   Hct
   29.0
   29.2
   30.1
   27.3
   28.5
   30.5
   30.6
   28.8
   Plt
   [**Telephone/Fax (2) 9206**]
   332
   Cr
   1.0
   2.1
   2.5
   3.9
   4.2
   5.5
   TCO2
   24
   Glucose
   97
   105
   114
   145
   140
   88
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9164**] is a 54 year old female with DM, OSA, Asthma , with large
   ovarian mass now s/p ex-lap and panniculectomy, admitted to [**Hospital Unit Name 10**] for
   post-operative hypoxemia, now with acute renal failure likely [**2-4**] ATN
   from hypoperfusion during operation.
   1. [**Name (NI) 9213**] pt remains anuric, w steadily rising Cr 5.5 today up from 4.4
   yesterday from baseline around 1.0 Likely etiology of ATN is
   hypoperfusion due to hypotension during operation.
   -- Renal c/s appreciated, will f/u all renal recs, ? possible HD in
   future and HD-access
   -- fluid boluses are for hypotension only as unlikely to affect UOP
   -- check U lytes, chem 7 [**Hospital1 **], monitor UOP
   2. Hypoxemia/PNA
 Patient remains extubated although she has a
   persistent O2 requirement.  Has also been hypercarbic, and this has
   been exacerbated by refusing to use CPAP at night.
   - continue Vanc/ Zosyn /Cipro for coverage of VAP (on day 3 of 8 day
   course, end in 5 days [**11-16**])
   - change zosyn to q8 dosing for renal function, hold vanc for today as
   level 31.2
   - check VBG today
   - F/u sputum Cx
   - Continue albuterol nebs
   - Continue Advair
   - continue budesonide nebs
   - maintain SaO2 >90
   - will need outpt pulm f/u
   - repeat CXR
   - consider repeat Echo as outpt
   - repeat cultures, lactic acid
   3. constipation- pt has not had bowel movement since prior to operation
   ~1 wk
   -- PR enemas, tap water enema
   -- ct bowel regimen
   4. s/p TAH-BSO for ovarian mass - Patient still having significant
   amount of pain, but also quite sedated.
   - d/c morphine PCA and start Dilaudid PRN (pt very drowsy on this but
   pain better controlled)
   - Zofran and Compazine for nausea/vomiting
   - apprec. gyn/onc recs
   - follow up pathology
 cytology negative for malignant cells, path of
   mass pending
   - JP drains and wound care per surgery
   5. ARF/ Low UOP:  Likely [**2-4**] ARF.  UOP continues to be low.  Likely [**2-4**]
   ATN. No evidence of hydro on limited renal U/S.
   -Urine lytes
   -Check chem 7 [**Hospital1 **]
   -Continue to monitor UOP
   -Use IV boluses PRN for hypotension but not for low urine output
   -Check Cr on JP drain output to assess to urinary tract injury
   (unlikely)
   .
   6. Asthma: patient with wheezing bilaterally
   - continue advair
   - albuterol q4hrs standing
   - budesonide nebs
   .
   7. HTN:  continue to hold anti-hypertensives.  Will re-start if the
   patient becomes hypertensive.
   .
   8. Diabetes:
   - hold Glyburide and Metformin for now
   - sliding scale insulin
   9. Anemia
 Hct stable.  No evidence of active bleed
   -Given post-operative, transfuse for Hct goal of 30 or signs of active
   bleed.
   -follow Hct [**Hospital1 **]
   -CT abd/pelvis to evaluate for intraabdominal bleeding
   ICU Care
   Nutrition: Advance diet to sips.
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Arterial Line - [**2154-11-6**] 09:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-11 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, PNA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 y.o. woman s/p TAH/BSO, PNA, respiratory failure, acute renal
   failure secondary to ATN
   24 Hour Events:
 SPUTUM CULTURE - At [**2154-11-10**] 07:34 PM
 WOUND CULTURE - At [**2154-11-10**] 09:05 PM
   CT abdomen/pelvis - some dialted loops of small bowel, can't rule out
   early SBO.  Minimal consolidation rright mid lung
   History obtained from Patient
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 08:00 AM
   Ciprofloxacin - [**2154-11-10**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-11**] 08:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-11-10**] 07:55 PM
   Hydromorphone (Dilaudid) - [**2154-11-11**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-11**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 102 (93 - 109) bpm
   BP: 121/65(78) {85/57(65) - 129/88(93)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 21 (15 - 22)mmHg
   Total In:
                                                                  3,465 mL
                                                                    376 mL
   PO:
   TF:
   IVF:
                                                                  3,258 mL
                                                                    256 mL
   Blood products:
                                                                      6 mL
   Total out:
                                                                  1,083 mL
                                                                    955 mL
   Urine:
                                                                     38 mL
   NG:
                                                                    675 mL
   Stool:
   Drains:
                                                                  1,045 mL
                                                                    280 mL
   Balance:
                                                                  2,382 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 83%
   ABG: ///21/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Distended, Tender: mild diffuse, no guarding or rebound
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed, somnolent but easily arousable to voice
   Labs / Radiology
   8.7 g/dL
   332 K/uL
   88 mg/dL
   5.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   32 mg/dL
   105 mEq/L
   138 mEq/L
   28.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2154-11-7**]  04:43 PM
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
                             [**2154-11-10**]  06:15 AM
                             [**2154-11-10**]  11:34 AM
                             [**2154-11-10**]  01:20 PM
                             [**2154-11-11**]  06:01 AM
   WBC
   5.6
   6.4
   6.8
   9.2
   11.8
   9.0
   9.3
   Hct
   29.0
   29.2
   30.1
   27.3
   28.5
   30.5
   30.6
   28.8
   Plt
   [**Telephone/Fax (3) 9206**]
   332
   Cr
   1.0
   2.1
   2.5
   3.9
   4.2
   5.5
   TCO2
   24
   Glucose
   97
   105
   114
   145
   140
   88
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:82.3 %,
   Lymph:11.1 %, Mono:5.7 %, Eos:0.9 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 ACTUE RENAL FAILURE:   Seocndary to ATN in setting of decreased
   perfusion.  Cr continues to rise, oliguric and approaching anuria.
   Muddy brown casts on sediment. Bladder pressures had been in normal
   range.  Renal service following, they will discuss need to start
   dialysis in which case access will need to be obtained.
  DIABETES MELLITUS (DM), TYPE II:  RISS
 ANEMIA:  Hct slightly decreased albeit likely dilutional.  Check [**Hospital1 **]
   CBCs.
 ABDOMINAL DISTENTION:  No bowel movement for several days.  Biliious
   material from NGT, large amount.  CT abdomen concerning for early SBO.
   Will continue to monitor, try suppositories.  Probable ileus in postop
   setting and exacerbated by pain meds.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL) s/p exploratory laparotomy.
 OBSTRUCTIVE SLEEP APNEA (OSA):  Exacerbated in the setting of pain
   meds with increased pC02 on blood gas. Not compensating appropriately
   in setting of worsening renal function and metabolic acidosis.
   Continue to monitor gases.  Have discussed use of CPAP, patient
   reluctant as it makes her feel her breathing is worse.  Will encourage
   use in the ICU.
 ACUTE RESPIRATORY FAILURE secondary to pneumonia.  Continues on broad
   spectrum antibiotics.  Remains extubated, no cough or sputum.
   Afebrile.  Still teneuous from a respiratory standpont given
   exacerbation of sleep apnea on pain meds as noted above.  Continue to
   monitor in ICU.
 ASTHMA:  Continues bronchodilators.  No wheeze on exam.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2154-11-12 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tmrw getting IR guided placement of HD line
   - will start HD tmrw
   - needs TPN tmrw! (dont forget to order it!)
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 08:00 AM
   Ciprofloxacin - [**2154-11-11**] 04:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-12**] 12:10 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2154-11-11**] 09:18 PM
   Dextrose 50% - [**2154-11-12**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-12**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 90 (84 - 102) bpm
   BP: 117/55(71) {92/51(61) - 126/76(92)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 15 (10 - 35)mmHg
   Total In:
                                                                    765 mL
                                                                    173 mL
   PO:
   TF:
   IVF:
                                                                    620 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,899 mL
                                                                    305 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
                                                                  1,511 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    378 mL
                                                                    200 mL
   Balance:
                                                                 -1,134 mL
                                                                   -131 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General: obese, hirsute African American female in mild distress;
   somnolent but easily  arousable. Oriented. Converses appropriately.
   Pulmonary: Rales at left apex. Otherwise CTAB.
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, obese, distended, absent bowel sounds, lower abdominal
   incision with dressing clean, dry, intact incision; JP drains with
   serosanguinous drainage
   Extremities: Bilateral LE edema, warm and well-perfused.
   Labs / Radiology
   324 K/uL
   9.1 g/dL
   88 mg/dL
   5.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   32 mg/dL
   105 mEq/L
   138 mEq/L
   28.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
                             [**2154-11-10**]  06:15 AM
                             [**2154-11-10**]  11:34 AM
                             [**2154-11-10**]  01:20 PM
                             [**2154-11-11**]  06:01 AM
                            [**2154-11-12**]  06:09 AM
   WBC
   6.4
   6.8
   9.2
   11.8
   9.0
   9.3
   9.4
   Hct
   29.2
   30.1
   27.3
   28.5
   30.5
   30.6
   28.8
   28.6
   Plt
   294
   316
   331
   [**Telephone/Fax (3) 9224**]
   324
   Cr
   1.0
   2.1
   2.5
   3.9
   4.2
   5.5
   TCO2
   24
   Glucose
   97
   105
   114
   145
   140
   88
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:89.3 %,
   Lymph:5.1 %, Mono:3.5 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.6
   g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9164**] is a 54 year old female with DM, OSA, Asthma , with large
   ovarian mass now s/p ex-lap and panniculectomy, admitted to [**Hospital Unit Name 10**] for
   post-operative hypoxemia, now with acute renal failure likely [**2-4**] ATN
   from hypoperfusion during operation.
   1. [**Name (NI) 9213**] pt remains anuric, w steadily rising Cr 5.5 today up from 4.4
   yesterday from baseline around 1.0 Likely etiology of ATN is
   hypoperfusion due to hypotension during operation.
   -- Renal c/s appreciated, will f/u all renal recs, ? possible HD in
   future and HD-access
   -- fluid boluses are for hypotension only as unlikely to affect UOP
   -- check U lytes, chem 7 [**Hospital1 **], monitor UOP
   2. Hypoxemia/PNA
 Patient remains extubated although she has a
   persistent O2 requirement.  Has also been hypercarbic, and this has
   been exacerbated by refusing to use CPAP at night.
   - continue Vanc/ Zosyn /Cipro for coverage of VAP (on day 3 of 8 day
   course, end in 5 days [**11-16**])
   - change zosyn to q8 dosing for renal function, hold vanc for today as
   level 31.2
   - check VBG today
   - F/u sputum Cx
   - Continue albuterol nebs
   - Continue Advair
   - continue budesonide nebs
   - maintain SaO2 >90
   - will need outpt pulm f/u
   - repeat CXR
   - consider repeat Echo as outpt
   - repeat cultures, lactic acid
   3. constipation- pt has not had bowel movement since prior to operation
   ~1 wk
   -- PR enemas, tap water enema
   -- ct bowel regimen
   4. s/p TAH-BSO for ovarian mass - Patient still having significant
   amount of pain, but also quite sedated.
   - d/c morphine PCA and start Dilaudid PRN (pt very drowsy on this but
   pain better controlled)
   - Zofran and Compazine for nausea/vomiting
   - apprec. gyn/onc recs
   - follow up pathology
 cytology negative for malignant cells, path of
   mass pending
   - JP drains and wound care per surgery
   5. ARF/ Low UOP:  Likely [**2-4**] ARF.  UOP continues to be low.  Likely [**2-4**]
   ATN. No evidence of hydro on limited renal U/S.
   -Urine lytes
   -Check chem 7 [**Hospital1 **]
   -Continue to monitor UOP
   -Use IV boluses PRN for hypotension but not for low urine output
   -Check Cr on JP drain output to assess to urinary tract injury
   (unlikely)
   .
   6. Asthma: patient with wheezing bilaterally
   - continue advair
   - albuterol q4hrs standing
   - budesonide nebs
   .
   7. HTN:  continue to hold anti-hypertensives.  Will re-start if the
   patient becomes hypertensive.
   .
   8. Diabetes:
   - hold Glyburide and Metformin for now
   - sliding scale insulin
   9. Anemia
 Hct stable.  No evidence of active bleed
   -Given post-operative, transfuse for Hct goal of 30 or signs of active
   bleed.
   -follow Hct [**Hospital1 **]
   -CT abd/pelvis to evaluate for intraabdominal bleeding
   ICU Care
   Nutrition: Advance diet to sips.
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2154-11-12 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 y.o. woman s/p TAH/BSO, PNA, respiratory failure, acute renal
   failure secondary to ATN
   24 Hour Events:
   Noted [**8-12**] pain at incision site, relieved with 0.25 mg dilaudid
   Anuric over past 24 hours
   More awake and alert this morning.
   History obtained from Patient
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 08:00 AM
   Ciprofloxacin - [**2154-11-11**] 04:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-12**] 09:09 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2154-11-11**] 09:18 PM
   Dextrose 50% - [**2154-11-12**] 06:01 AM
   Heparin Sodium (Prophylaxis) - [**2154-11-12**] 09:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: [**1-4**] Minimal
   Flowsheet Data as of  [**2154-11-12**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 78 (78 - 100) bpm
   BP: 105/62(71) {92/51(61) - 126/74(92)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 17 (10 - 35)mmHg
   Total In:
                                                                    765 mL
                                                                    568 mL
   PO:
   TF:
   IVF:
                                                                    620 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  1,899 mL
                                                                    305 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
                                                                  1,511 mL
                                                                    100 mL
   Stool:
   Drains:
                                                                    378 mL
                                                                    200 mL
   Balance:
                                                                 -1,134 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Tender: at incision, incision dressing clean and dry
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, pitting at thigh
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   324 K/uL
   126 mg/dL
   7.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   34 mg/dL
   105 mEq/L
   139 mEq/L
   28.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2154-11-7**]  11:01 PM
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
                             [**2154-11-10**]  06:15 AM
                             [**2154-11-10**]  11:34 AM
                             [**2154-11-10**]  01:20 PM
                             [**2154-11-11**]  06:01 AM
                            [**2154-11-12**]  06:09 AM
   WBC
   6.4
   6.8
   9.2
   11.8
   9.0
   9.3
   9.4
   Hct
   29.2
   30.1
   27.3
   28.5
   30.5
   30.6
   28.8
   28.6
   Plt
   294
   316
   331
   [**Telephone/Fax (3) 9224**]
   324
   Cr
   1.0
   2.1
   2.5
   3.9
   4.2
   5.5
   7.1
   TCO2
   24
   Glucose
   97
   105
   114
   145
   140
   88
   126
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:89.3 %,
   Lymph:5.1 %, Mono:3.5 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.6
   g/dL, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Microbiology: No new culture data
   Assessment and Plan
 ACUTE RENAL FAILURE: Secondary to ATN due to hypotension. BUN/Cr
   continue to rise.  Essentially anuric over past 24 hours.  Renal
   service following along, anticipate initiation of dialysis, will need
   access placed.  Plan to keep in ICU to see if she tolerates initiation
   of dialysis from a hemodynamic standpoint.
 OLIGURIA/ANURIA: As above
 VAP/HYPOXIA:  VAP on antibiotics, holding vanco as level persistently
   high in setting of renal failure.  Also likely splinting from pain
   contributing to atelectasis, hypoventilation.
 DIABETES MELLITUS (DM), TYPE II:  On insulin sliding scale.
 ASTHMA:  Stable on bronchodilators.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL): Preliminary path was benign.  Follow up on
   final pathology report.
 OBSTRUCTIVE SLEEP APNEA (OSA): Patient refusing to wear CPAP, O2
   nasal cannula.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Adequately controlled on
   dilaudid.
 ANEMIA:  Hct stable.
 NUTRITION:  To start TPN today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2154-11-13 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2154-11-12**] 03:00 PM
   -HD line placed and the pt. underwent dilaysis session.  2L of fluid
   off, BP tolerated well.
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 08:00 AM
   Ciprofloxacin - [**2154-11-12**] 06:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2154-11-12**] 11:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-11-12**] 07:53 PM
   Hydromorphone (Dilaudid) - [**2154-11-13**] 01:05 AM
   Dextrose 50% - [**2154-11-13**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 86 (77 - 93) bpm
   BP: 143/71(88) {91/54(62) - 162/84(100)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 22 (14 - 22)mmHg
   Total In:
                                                                  1,444 mL
                                                                    434 mL
   PO:
   TF:
   IVF:
                                                                  1,117 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    120 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
                                                                    350 mL
                                                                    120 mL
   Balance:
                                                                 -1,011 mL
                                                                    315 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: obese, hirsute African American female in mild distress;  less
   somnolent. Oriented. Converses appropriately.
   Pulmonary: Rales at left apex. Otherwise CTAB.
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, obese, distended, absent bowel sounds, lower abdominal
   incision with dressing clean, dry, intact incision; JP drains with
   serosanguinous drainage
   Extremities: Bilateral LE edema, warm and well-perfused.
   Labs / Radiology
   418 K/uL
   9.3 g/dL
   39 mg/dL
   7.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   35 mg/dL
   103 mEq/L
   139 mEq/L
   31.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2154-11-8**]  12:58 AM
                             [**2154-11-9**]  06:42 AM
                             [**2154-11-9**]  12:20 PM
                             [**2154-11-9**]  12:57 PM
                             [**2154-11-10**]  06:15 AM
                             [**2154-11-10**]  11:34 AM
                             [**2154-11-10**]  01:20 PM
                             [**2154-11-11**]  06:01 AM
                            [**2154-11-12**]  06:09 AM
                            [**2154-11-13**]  03:35 AM
   WBC
   6.8
   9.2
   11.8
   9.0
   9.3
   9.4
   13.8
   Hct
   30.1
   27.3
   28.5
   30.5
   30.6
   28.8
   28.6
   31.2
   Plt
   [**Telephone/Fax (2) 9251**]
   418
   Cr
   1.0
   2.1
   2.5
   3.9
   4.2
   5.5
   7.1
   7.2
   TCO2
   24
   Glucose
   97
   105
   114
   145
   140
   88
   126
   39
   Other labs: PT / PTT / INR:15.1/32.5/1.3, Differential-Neuts:89.3 %,
   Lymph:5.1 %, Mono:3.5 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.6
   g/dL, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 9164**] is a 54 year old female with DM, OSA, Asthma , with large
   ovarian mass now s/p ex-lap and panniculectomy, admitted to [**Hospital Unit Name 10**] for
   post-operative hypoxemia, now with acute renal failure likely [**2-4**] ATN
   from hypoperfusion during operation.
   1. [**Name (NI) 9213**] pt remains anuric, w steadily rising Cr 7.1 today up from 5.5
   yesterday from baseline around 1.0 Likely etiology of ATN is
   hypoperfusion due to hypotension during operation.
   --HD cath placement today
   --HD after cath placement
   --Appreciate continued renal recs
   --IVF only as needed for hypotension
   --monitor UOP, daily Cr
   2. Hypoxemia/PNA
 Patient remains extubated although she has a
   persistent O2 requirement.  Has also been hypercarbic, and this has
   been exacerbated by refusing to use CPAP at night.
   - continue Vanc/ Zosyn /Cipro for coverage of VAP (on day 4 of 8 day
   course, last day [**11-16**])
   - continue zosyn to q8 dosing for renal function, hold vanc for today
   again as levels high
   - f/u VBG today
   - Continue albuterol nebs
   - Continue Advair
   - continue budesonide nebs
   - maintain SaO2 >90
   - will need outpt pulm f/u
   - f/u TTE
   - f/u Blood Cultures, Peritoneal fluid cultures
   3. [**Name (NI) 9241**] pt has not had bowel movement since prior to operation
   ~1 wk.  Likely ileus post-surgically.
   --continue NGT on suction, NPO
   -- ct bowel regimen
   -- add Miralax
   4. s/p TAH-BSO for ovarian mass - Patient still having significant
   amount of pain, but also quite sedated.
   - d/c morphine PCA and start Dilaudid PRN (pt very drowsy on this but
   pain better controlled)
   - Zofran and Compazine for nausea/vomiting
   - apprec. gyn/onc recs
   - follow up pathology
 cytology negative for malignant cells, path of
   mass pending
   - JP drains and wound care per surgery
   .
   6. Asthma: patient with greatly diminished wheezing on exam
   - continue advair
   - albuterol q4hrs standing
   - budesonide nebs
   .
   7. HTN:  continue to hold anti-hypertensives.  Will re-start if the
   patient becomes hypertensive.
   .
   8. Diabetes:
   - hold Glyburide and Metformin for now
   - sliding scale insulin
   9. Anemia
 Hct stable.  No evidence of active bleed
   -follow Hct [**Hospital1 **]
   ICU Care
   Nutrition: Start TPN today.
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2154-11-6**] 09:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Lansoprazole
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU